US08686048B2
Intermediate 43: 4-(2,3-dihydrobenzofuran-5-yl)-2,6-difluoroaniline
The title compound (182 mg) was prepared from 4-bromo-2,6-difluoroaniline (200 mg, 0.96 mmol) and 2,3-dihydrobenzofuran-5-ylboronic acid (204 mg, 1.25 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.46 (s, 1H), 7.30 (dd, J 1.8, 8.3, 1H), 7.16 (dd, J 2.1, 8.2, 2H), 6.75 (d, J 8.3, 1H), 5.18 (s, 2H), 4.52 (t, J 8.7, 2H), 3.18 (t, J 8.5, 2H).

reactant | 4-bromo-2,6-difluoroaniline | 0.96 mmol, 200 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 2,3-dihydrobenzofuran-5-ylboronic acid | 1.25 mmol, 204 mg | O1CCC2=C1C=CC(=C2)B(O)O | C8H9BO3
product | 4-(2,3-dihydrobenzofuran-5-yl)-2,6-difluoroaniline | 182 mg | O1CCC2=C1C=CC(=C2)C2=CC(=C(N)C(=C2)F)F | C14H11F2NO
